US08053440B2
A solution of sodium hydroxide (2.53 g, 63.25 mmol) in water (65 mL) was added to a mixture of bromoacetic acid (5.27 g, 37.95 mmol) and 3,5-dimethyl-4-hydroxy-benzaldehyde (1.9 g, 12.65 mmol) in water (30 mL). The reaction mixture was stirred at 100° C. for 24 h. The solution was acidified to pH ˜2 with conc. HCl. The brown solid was filtered off, washed with water, dried under vacuum, and purified by column chromatography to give (4-formyl-2,6-dimethylphenoxy)-acetic acid as a light brown solid (0.40 g). To a solution of 2-amino-4,6-dimethoxybenzamide (0.150 g, 0.764 mmol) in N,N-dimethyl acetamide (5 mL) were added (4-formyl-2,6-dimethyl-phenoxy)-acetic acid (0.159 g, 0.764 mmol), sodium hydrogen sulphite (58.5%, 0.150 g, 0.84 mmol) and prtoluenesulfonic acid (15 mg, 0.0764 mmol). The reaction mixture was stirred at 150° C. for 3 h. it was then cooled to room temperature and water (40 mL) was added. A yellow precipitate was formed and filtered off, washed with water and a small amount of methanol. Triturated with 10% methanol in ether to give 0.084 g of compound, which was further purified by preparative HPLC to give 2-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)acetic acid (47 mg, 13%) as a white solid. Selected data: MS (ES) m/z: 384.0; MP 270-272° C.

reactant | sodium hydroxide | 63.25 mmol, 2.53 g | [OH-].[Na+]
reactant | bromoacetic acid | 37.95 mmol, 5.27 g | BrCC(=O)O | C2H3BrO2
reactant | 3,5-dimethyl-4-hydroxy-benzaldehyde | 12.65 mmol, 1.9 g | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | HCl | Cl | ClH
solvent | water | 65 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | (4-formyl-2,6-dimethylphenoxy)-acetic acid | 0.40 g | C(=O)C1=CC(=C(OCC(=O)O)C(=C1)C)C | C11H12O4
